US07323472B2
4-Cyclopropylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-cyclopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methylphenylboronic acid to give the title compound 4-cyclopropylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 0.69 (m, 2H), 0.94 (m, 2H), 2.23 (s, 3H), 2.62 (s, 3H), 3.14 (m, 1H), 6.98 (m, 2H), 7.20 (m, 1H), 9.09(br s, 1H), 9.49 (s, 1H). LC MS (m/e)=318 (MH+).

reactant | 4-chloro-6-cyclopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1CC1)SC | C9H10ClN3OS
reactant | 4-fluoro-2-methylphenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-cyclopropylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C1(CC1)NC1=NC(=NC(=C1C=O)C1=C(C=C(C=C1)F)C)SC | C16H16FN3OS
